US04499296
10 parts of cyclobutylcarboxylic acid chloride in tetrahydrofuran is hydrogenated over 10% palladium on carbon catalyst, to provide cyclobutylcarboxaldehyde. 25 parts of triphenylphosphoranylidene-2-propanone and 6.3 parts of the cyclobutylcarboxaldehyde in 60 parts by volume of benzene under nitrogen are refluxed for 8 hours. The solvent is removed by evaporation under reduced pressure to provide 4-cyclobutyl-3-buten-2-one.

reactant | cyclobutylcarboxylic acid chloride | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | triphenylphosphoranylidene-2-propanone | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(C)=O | C21H19OP
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-cyclobutyl-3-buten-2-one | C1(CCC1)C=CC(C)=O | C8H12O
